US08044069B2
N-(3-(trifluoromethyl)benzyl)-1-(trimethylsilyl)methanamine
(3-(Trifluoromethyl)phenyl)methanamine (25 g, 143 mmol), (chloromethyl)trimethylsilane (19.92 mL, 143 mmol), and triethylamine (23.87 mL, 171 mmol) were combined neat. The resultant reaction mixture was refluxed overnight. The reaction was cooled to room temperature, and heptane (150 mL) was added. The HCl salts were removed by filtration, washing with heptane. The solvent was removed under reduced pressure, and the product was isolated by vacuum distillation (bp 70-90° C./3.2 torr) to give the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.59 (s, 1H), 7.53-7.38 (m, 3H), 3.86 (s, 2H), 2.04 (s, 2H), 1.34 (s, 1H), 0.06 (s, 9H).

reactant | (3-(Trifluoromethyl)phenyl)methanamine | 143 mmol, 25 g | FC(C=1C=C(C=CC1)CN)(F)F | C8H8F3N
reactant | (chloromethyl)trimethylsilane | 143 mmol, 19.92 mL | ClC[Si](C)(C)C | C4H11ClSi
reactant | triethylamine | 171 mmol, 23.87 mL | C(C)N(CC)CC | C6H15N
solvent | heptane | 150 mL | CCCCCCC | C7H16
product | N-(3-(trifluoromethyl)benzyl)-1-(trimethylsilyl)methanamine | FC(C=1C=C(CNC[Si](C)(C)C)C=CC1)(F)F | C12H18F3NSi
